US08124606B2
Compound 92B: (R)-4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoic acid:
(R)-ethyl 4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoate (180 mg, 0.385 mmol) was taken up in dioxane (2081 μl) and LiOH (1N, 2310 μl, 2.310 mmol) was added. The reaction was stirred 16 h at room temperature. The reaction was concentrated in-vacuo and the residue was taken up in water (5 mL) and acidified (4.5N HCl) to pH 4. A tan precipitate formed which was filtered and the solids were collected, dried and determined to be the product (166 mg, 98%) as a tan solid. [M+H] calc'd for C22H25N5O3S, 440. found, 440.

reactant | (R)-ethyl 4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoate | 0.385 mmol, 180 mg | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=CC=C(C(=O)OCC)C=C3)CCSC2 | C24H29N5O3S
reactant | LiOH | 2.310 mmol, 1N, 2310 μl | [Li+].[OH-]
solvent | dioxane | 2081 μl | O1CCOCC1 | C4H8O2
product | (R)-4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoic acid | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=CC=C(C(=O)O)C=C3)CCSC2 | C22H25N5O3S
